US04036970
Epibromohydrin (1.37 g.) in 2 ml. dry tetrahydrofuran is added to a stirred suspension of the salt obtained by mixing 3 g. of 4-methylbenzyl mercaptan and 550 mg. of sodium hydride (56% dispersion in mineral oil) in 60 ml. dry tetrahydrofuran. The resulting solution is heated at reflux for 4 hours. Thereafter, the solvent is removed and 30 ml. of water is added to the residue. The resultant aqueous mixture is extracted with ether and the ether extracts washed with water, dried over magnesium sulfate and evaporated to dryness to yield 1,3-bis(4'-methylbenzylthio)-2-propanol.

reactant | Epibromohydrin | 1.37 g | C(Br)C1CO1 | C3H5BrO
reactant | 4-methylbenzyl mercaptan | CC1=CC=C(CS)C=C1 | C8H10S
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,3-bis(4'-methylbenzylthio)-2-propanol | CC1=CC=C(CSCC(CSCC2=CC=C(C=C2)C)O)C=C1 | C19H24OS2
